US07504508B2
(2S,4R)-3-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-propane-1-sulfonic acid (H-17)
(2S,4R)-N-(4-Chloro-phenyl)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide (207 mg, 0.481 mmol) was dissolved in DMF (5 mL) at room temperature. NaH (58 mg, 2.40 mmol) was added followed by 3-chloro-propane-1-sulfonic acid (sodium salt, 135 mg, 0.60 mmol) and the reaction was allowed to stir over night. The mixture was partitioned between methylene chloride and HCl (1.0N/water), then extracted three times with methylene chloride, dried over MgSO4, filtered and concentrated. The crude residue was purified by preparatory HPLC to afford the product.

reactant | (2S,4R)-N-(4-Chloro-phenyl)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide | 0.481 mmol, 207 mg | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)O)=O)C | C25H23ClN2O3
reactant | NaH | 2.40 mmol, 58 mg | [H-].[Na+]
reactant | 3-chloro-propane-1-sulfonic acid | 0.60 mmol, 135 mg | ClCCCS(=O)(=O)O | C3H7ClO3S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (2S,4R)-3-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-propane-1-sulfonic acid | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(OCCCS(=O)(=O)O)C=C1)C)C1=CC=C(C=C1)Cl | C28H29ClN2O6S
